US08754103B2
6-Bromo-3-(chloro-difluoro-methyl)-[1,2,4]triazolo[4,3-a]pyridine (2.76 g, 9.8 mmol), 4-trifluoromethoxyphenyl boronic acid (2.5 g, 12.1 mmol), dppfPdCl2 (1,1′-bis(diphenylphosphino)ferrocene palladium dichloride)(350 mg, 0.5 mmol), and potassium carbonate (2.76 g, 20 mmol) were suspended in degassed toluene (20 mL), degassed isopropanol (10 mL) and degassed water (10 mL) under an atmosphere of nitrogen. The reaction mixture was heated at 70° C. for 1 hour before being cooled to room temperature. The aqueous phase was discarded and the organic phase was concentrated and purified by flash chromatography (rf=0.5 in 1:1 hexanes/ethyl acetate) to give 3-(chloro-difluoro-methyl)-6-(4-trifluoromethoxy-phenyl)-[1,2,4]triazolo[4,3-a]pyridine as a pale orange powder.

reactant | 6-Bromo-3-(chloro-difluoro-methyl)-[1,2,4]triazolo[4,3-a]pyridine | 9.8 mmol, 2.76 g | BrC=1C=CC=2N(C1)C(=NN2)C(F)(F)Cl | C7H3BrClF2N3
reactant | 4-trifluoromethoxyphenyl boronic acid | 12.1 mmol, 2.5 g | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | potassium carbonate | 20 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | dppfPdCl2 | 0.5 mmol, 350 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(chloro-difluoro-methyl)-6-(4-trifluoromethoxy-phenyl)-[1,2,4]triazolo[4,3-a]pyridine | ClC(C1=NN=C2N1C=C(C=C2)C2=CC=C(C=C2)OC(F)(F)F)(F)F | C14H7ClF5N3O
